US07429665B2
2-[3-Fluoro-4-(4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline
Following the procedure for the preparation of 2-[-4-(4-Pyridin-4-yl-2H-pyrazol-3-yl)-phenoxymethyl}-quinoline but substituting 1-{2-Fluoro-4-(quinolin-2-ylmethoxy)-phenyl}-2-pyridin-4-yl-ethanone provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.47 (d, J=6.5 Hz, 2H), 8.22 (d, J=8.3 Hz, 1H), 8.08 (d, J=8.7 Hz, 1 H), 7.84 (s, 1H), 7.82 (m, 1H), 7.74 (m, 1H), 7.65 (d, J=8.7 Hz, 1 H), 7.55 (m, 1 H), 7.25 (m, 1 H), 7.18 (d, J=6.2 HZ, 2H), 6.85 (d, J=10.9, 2 H), 5.38 (s, 2 H); MS: (M+H m/z=397.2).

reactant | 2-[-4-(4-Pyridin-4-yl-2H-pyrazol-3-yl)-phenoxymethyl}-quinoline | N1=CC=C(C=C1)C1=C(NN=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C24H18N4O
reactant | 1-{2-Fluoro-4-(quinolin-2-ylmethoxy)-phenyl}-2-pyridin-4-yl-ethanone | FC1=C(C=CC(=C1)OCC1=NC2=CC=CC=C2C=C1)C(CC1=CC=NC=C1)=O | C23H17FN2O2
product | 2-[3-Fluoro-4-(4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | FC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1C1=NNC=C1C1=CC=NC=C1 | C24H17FN4O
